US05284863
Preparation of Ethyl 5-(p-chlorophenyl)-4-thiocyanatopyrrole-2-carboxylate
A solution of ethyl 5-(p-chlorophenyl)pyrrole-2-carboxylate (0.95 g, 3.8 mmol) in acetic acid (20 mL) is treated with ammonium thiocyanate (1.75 g, 22.8 mmol), stirred at room temperature for five minutes, cooled to 15° C., treated with a solution of bromine (0.91 g, 5.7 mmol) in acetic acid (10 mL) and stirred at room temperature for several hours. The reaction mixture is filtered to remove solids and the filtrate is poured into water and stirred. The aqueous mixture is filtered to obtain an off-white solid. Flash chromatography of the solid using a 1:10 ethyl acetate/hexanes solution gives the title product as a white solid (0.99 g, mp 138°-141° C.) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | ethyl 5-(p-chlorophenyl)pyrrole-2-carboxylate | 3.8 mmol, 0.95 g | ClC1=CC=C(C=C1)C1=CC=C(N1)C(=O)OCC | C13H12ClNO2
reactant | ammonium thiocyanate | 22.8 mmol, 1.75 g | [S-]C#N.[NH4+]
reactant | bromine | 5.7 mmol, 0.91 g | BrBr | Br2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | Ethyl 5-(p-chlorophenyl)-4-thiocyanatopyrrole-2-carboxylate | 0.99 g | ClC1=CC=C(C=C1)C1=C(C=C(N1)C(=O)OCC)SC#N | C14H11ClN2O2S
